US07897619B2
6-(2-Iodooxazol-5-yl)isoquinoline:
To a 150 mL round-bottomed flask was added 6-(oxazol-5-yl)isoquinoline (0.50 g, 2.55 mmol) and THF (20 mL), and the resulting reaction mixture was stirred at −78° C. The solution was then treated dropwise via syringe with lithium bis(trimethylsilyl)amide (1.0 M solution in THF (3.06 mL, 3.06 mmol)), and the reaction was stirred for 1 hour at −78° C. A THF solution of 1,2-diiodoethane (0.826 g, 2.93 mmol) was then added dropwise, and the reaction was allowed to warm to room temperature for 1 hour. The reaction was then poured into a 1:1 mixture of ether and saturated sodium thiosulfate. Approximately 100 mg was purified on a Varian HPLC, 5-70% ACN in water, 60 minutes run, to give 68 mg of pure compound. LCMS (API-ES) m/z (%): 323 (100%, M++H); 1H NMR (400 MHz, CDCl3) δ ppm 9.19 (s, 1H) 8.51 (d, J=5.67 Hz, 1H) 8.01 (s, 1H) 7.96 (d, J=8.61 Hz, 1H) 7.73 (dd, J=8.61, 1.57 Hz, 1H) 7.63 (d, J=5.67 Hz, 1H) 7.42 (s, 1H).

reactant | 6-(oxazol-5-yl)isoquinoline | 2.55 mmol, 0.50 g | O1C=NC=C1C=1C=C2C=CN=CC2=CC1 | C12H8N2O
reactant | lithium bis(trimethylsilyl)amide | 3.06 mmol, 1.0 M, 3.06 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 1,2-diiodoethane | 2.93 mmol, 0.826 g | ICCI | C2H4I2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | ether | CCOCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 6-(2-Iodooxazol-5-yl)isoquinoline | 68 mg | IC=1OC(=CN1)C=1C=C2C=CN=CC2=CC1 | C12H7IN2O
